US07795254B2
Palladium, 10 wt % on activated carbon (0.100 g, 0.940 mmol) was added to a solution of 7-(6-(benzyloxy)-7-methoxyquinolin-4-yloxy)-3,4-dihydro-2H-benzo[b][1,4]oxazine (1.156 g, 2.79 mmol) in ethanol (20.0 mL). The system was evacuated and purged with hydrogen (g) three times and then stirred under a H2 (g) atmosphere for 18 h. Additional palladium, 10 wt % on activated carbon (0.100 g, 0.940 mmol) was added to the reaction mixture. The system was evacuated and purged with hydrogen (g) three times and then stirred under a H2 (g) atmosphere for 20 h. The reaction mixture was filtered through a pad of Celite and concentrated to afford an orange brown solid. This material was purified via column chromatography on silica gel (RediSep 40 g column, gradient elution with 0-100% (90:10:1, dichloromethane/methanol/ammonium hydroxide)-dichloromethane) to afford 4-(3,4-dihydro-2H-benzo[b][1,4]oxazin-7-yloxy)-7-methoxyquinolin-6-ol (0.733 g, 81.0% yield) as a yellow solid. MS (MH+) 325.0; Calculated 324 for C18H16N2O4.

reactant | 7-(6-(benzyloxy)-7-methoxyquinolin-4-yloxy)-3,4-dihydro-2H-benzo[b][1,4]oxazine | 2.79 mmol, 1.156 g | C(C1=CC=CC=C1)OC=1C=C2C(=CC=NC2=CC1OC)OC=1C=CC2=C(OCCN2)C1 | C25H22N2O4
solvent | ethanol | 20.0 mL | C(C)O | C2H6O
catalyst | Palladium | [Pd] | Pd
product | 4-(3,4-dihydro-2H-benzo[b][1,4]oxazin-7-yloxy)-7-methoxyquinolin-6-ol | 0.733 g, 81.0% yield | O1C2=C(NCC1)C=CC(=C2)OC2=CC=NC1=CC(=C(C=C21)O)OC | C18H16N2O4
